US07109229B2
(b) 3-(7-Methoxy-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione
To a solution of 2-(1-methyl-1H-indol-7-yl)-acetamide (0.491 g, 2.61 mmol) and (7-methoxy-1H-indol-3-yl)-oxo-acetic acid methyl ester (0.611 g, 2.62 mmol) in DMF (40 mL) under N2 was added a 1.0 M solution of potassium-tert-butoxide in THF (10 mL, 10 mmol) dropwise over 5 minutes. The mixture was heated at 65–70° C. for 15 h. The mixture was cooled to room temperature, quenched with 1N HCl (excess) and poured into EtOAc. The organic layer was separated, washed with water (3×), saturated aq NaHCO3, and brine, dried (MgSO4), filtered and concentrated to ˜40 mL. Upon standing, a bright orange solid precipitated which was isolated by filtration and dried under vacuum at 80–100° C. overnight affording the title compound (0.165 g, 17%). The mother liquor was concentrated onto SiO2 and flash chromatography (30–50% EtOAc/hex) afforded additional product (0.212 g, 22%). 1H NMR (400 MHz, DMSO-d6) 11.98 (br s, 1H), 11.13 (s, 1H), 7.76 (d, J=2.7 Hz, 1H), 7.60 (dd, J=8 Hz, 1H), 7.25 (d, J=3.1 Hz, 1H), 6.97 (dd, J=7, 7 Hz, 1H), 6.88 (dd, J=7, 1 Hz, 1H), 6.54 (d, J=7 Hz, 1H), 6.48 (d, J=3.1 Hz, 1H), 6.43 (dd, J=8, 8 Hz, 1H), 5.98 (d, J=8 Hz, 1H), 3.84 (s, 3H), 3.66 (s, 3H). MS (electrospray, m/z) 372.1 (M++1), 370.1 (M−−1). HRMS 372.1330 (M++1, calcd for C22H18N3O3 372.1348). Anal. Calcd for C22H17N3O3: C, 71.15; 4.61; N, 11.31. Found: C, 70.80; H, 4.58; N, 11.06.

reactant | 2-(1-methyl-1H-indol-7-yl)-acetamide | 2.61 mmol, 0.491 g | CN1C=CC2=CC=CC(=C12)CC(=O)N | C11H12N2O
reactant | (7-methoxy-1H-indol-3-yl)-oxo-acetic acid methyl ester | 2.62 mmol, 0.611 g | COC(C(=O)C1=CNC2=C(C=CC=C12)OC)=O | C12H11NO4
reactant | potassium-tert-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 10 mmol, 10 mL | C1CCOC1 | C4H8O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 3-(7-Methoxy-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione | 0.165 g, 17% | COC=1C=CC=C2C(=CNC12)C=1C(NC(C1C=1C=CC=C2C=CN(C12)C)=O)=O | C22H17N3O3
